US09447114B2
To a solution of 6-bromo-5-(bromomethyl)-3-(3-hydroxypropyl)-1-methylthieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (2.5 g, 6.1 mmol) and PPTS (153 mg, 0.61 mmol) in DCM (25 mL) at 0° C. was added DHP (2.00 g, 24.5 mmol) dropwise. The reaction was stirred at RT for 18 h, poured into water (30 mL) and extracted with DCM (2×20 mL). The combined organic layers were washed with brine (20 mL), dried over Na2SO4 and concentrated to a residue which was purified by chromatography eluted with PE/EA (4:1) to give 6-bromo-5-(bromomethyl)-1-methyl-3-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (1.7 g, 56.7% yield) as a yellow oil.

reactant | 6-bromo-5-(bromomethyl)-3-(3-hydroxypropyl)-1-methylthieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 6.1 mmol, 2.5 g | BrC1=C(C2=C(N(C(N(C2=O)CCCO)=O)C)S1)CBr | C11H12Br2N2O3S
reactant | PPTS | 0.61 mmol, 153 mg | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
reactant | DHP | 24.5 mmol, 2.00 g | C1CC=COC1 | C5H8O
reactant | water | 30 mL | O | H2O
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 6-bromo-5-(bromomethyl)-1-methyl-3-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 1.7 g, 56.7% yield | BrC1=C(C2=C(N(C(N(C2=O)CCCOC2OCCCC2)=O)C)S1)CBr | C16H20Br2N2O4S
